US05736548
To a solution of 2-hydroxybenzaldehyde (6.11 g, 0.05 mol) in DMF (50 ml) under argon in an ice bath was added NaH (2.0 g, 0.05 mol, 60% dispersion in mineral oil), followed 1 hour later by 2-chloroethylmethyl ether (4.73 g, 0.05 mol). The reaction mixture was allowed to stand for about 2 days, then was heated at 70° C. for 7 hours. The reaction mixture was stripped to dryness, the residue was partitioned between water and CHCl3, the layers were separated and the aqueous layer was extracted with CHCl3 (2×75 ml). The product appeared to be in both layers, thus they were concentrated in vacuo and the residue was purified by column chromatography on silica gel eluting with ether to afford 1.5 g of 2-[2-(methoxy)ethoxy]benzaldehyde.

reactant | 2-hydroxybenzaldehyde | 0.05 mol, 6.11 g | OC1=C(C=O)C=CC=C1 | C7H6O2
reactant | NaH | 0.05 mol, 2.0 g | [H-].[Na+]
reactant | 2-chloroethylmethyl ether | 0.05 mol, 4.73 g | ClCCOC | C3H7ClO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 2-[2-(methoxy)ethoxy]benzaldehyde | 1.5 g | COCCOC1=C(C=O)C=CC=C1 | C10H12O3
